* C:\Users\adamk\Desktop\RSX\cansat_2026\RSX-Cansat-2026\electrical\spice_sims\ni-mh_lvc_sim.asc
* Generated by LTspice 24.1.10 for Windows.
V1 N003 0 10
R1 N004 0 100k
X§U3 N002 N001 N003 0 SN74AUP1G04 ;§pnba Y)A)VCC)AGND
X§U2 N004 N002 N003 Si4435DDY ;§pnba D)G)S
X§U4 0 N001 N003 TPS3839G12_TRANS ;§pnba GND)RESET_B)VDD
.include Si4435DDY_model.lib
.dc v1 0.5 1.4 0.1
.lib TPS3839G12_TRANS.LIB
* R1 simulates load
.lib C:\Users\adamk\Desktop\RSX\cansat_2026\RSX-Cansat-2026\electrical\spice_sims\Si4435DDY_PS.lib
.lib C:\Users\adamk\Desktop\RSX\cansat_2026\RSX-Cansat-2026\electrical\spice_sims\SN74AUP1G04.cir
.lib C:\Users\adamk\Desktop\RSX\cansat_2026\RSX-Cansat-2026\electrical\spice_sims\TPS3839G12_TRANS.LIB
.backanno
.end
